US07094801B2
4-[3E-(2,6-Dimethoxy-4-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2,6-dimethoxy-4-thiophen-2-yl-benzaldehyde (Ex-37A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, 79% yield, m.p. 256–258° C. 1H-NMR (300 MHz, d6-DMSO): 8.11 (d, 1H, J=15.9 Hz), 8.10 (m, 4H), 8.05 (d, 1H, J=15.9 Hz), 7.73 (d, 1H, J=3.6 Hz), 7.61 (d, 1H, J=5.3 Hz), 7.16 (dd, 1H, J=5.3 and 3.6 Hz), 6.95 (s, 2H), 3.98 (s, 6H). MS m/z=394 ([M]+, 100%). HRMS (EI) Calcd. for C22H18O5S: 394.0875. Found: 394.0877.

reactant | 2,6-dimethoxy-4-thiophen-2-yl-benzaldehyde | COC1=C(C=O)C(=CC(=C1)C=1SC=CC1)OC | C13H12O3S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2,6-Dimethoxy-4-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 79% yield | COC1=C(C(=CC(=C1)C=1SC=CC1)OC)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H18O5S
